data/oMe_Silver.jsonl
{"reaction_id": "NR-149_1-C(C)(C)C_2-C(C)(C)C","name": "Myers Asymmetric Alkylation","level": "medium","reactants_smiles": ["C(C)(C)CCC(=O)N(C)C(C)C(O)c1ccccc1","BrC(C)(C)C"],"products_smiles": ["C(C)(C)CC(C(C)(C)C)C(=O)N(C)C(C)C(O)c1ccccc1"],"conditions": "LDA","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)C/C=C(\\[O-])/N(C)C(C)C([O-])c1ccccc1","rationale": "LDA, a strong non-nucleophilic base, selectively deprotonates the α-position due to acidity enhanced by resonance stabilization of the enolate through the carbonyl and auxiliary."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C)(C)CC(C(C)(C)C)C(=O)N(C)C(C)C([O-])c1ccccc1","rationale": "The enolate acts as a strong nucleophile, attacking the electrophilic carbon of the alkyl bromide in an SN2 process, favored by the good leaving ability of bromide and minimal steric hindrance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC(C(C)(C)C)C(=O)N(C)C(C)C(O)c1ccccc1","rationale": "The alkoxide intermediate is protonated under workup conditions, restoring the neutral alcohol and completing the formation of the alkylated product."}],"description": "Under strong base (LDA), the Myers auxiliary amide undergoes deprotonation to form a stabilized enolate, which then performs an SN2 alkylation with the alkyl bromide. Final protonation yields the chiral alkylated product with high stereocontrol from the auxiliary."}
{"reaction_id": "NR-126_1-C(F)(F)F","name": "Kornblum Oxidation","level": "medium","reactants_smiles": ["C(C(F)(F)F)Cl","C[S+]([O-])C"],"products_smiles": ["C(C(F)(F)F)=O"],"conditions": "CCN(CC)CC","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C(F)(F)F)O[S+](C)C","rationale": "The sulfoxide oxygen is nucleophilic due to its lone pairs and polarization; it attacks the electrophilic carbon bearing the good leaving group Cl, favored by the polar aprotic amine solvent that stabilizes the transition state."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)O[S+](C)[CH2-]","rationale": "The basic environment provided by the tertiary amine abstracts the acidic α-proton adjacent to the positively charged sulfur, driven by stabilization of the resulting carbanion through the adjacent sulfonium group."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(F)(F)F)=O","rationale": "The carbanion collapses, expelling the neutral dimethyl sulfide leaving group; this elimination is favored by the stability of the carbonyl product and the volatility of the leaving group."}],"description": "In the Kornblum oxidation, dimethyl sulfoxide acts as a nucleophile toward an alkyl halide, forming an alkoxysulfonium intermediate. Under basic conditions, deprotonation facilitates elimination of a sulfenic species, yielding the carbonyl product via a mild, non-aqueous oxidation pathway."}
